US04315031
2-methyl-2-chlorocyclohexanone
112 g of 2-methylcyclohexanone and 500 ml carbon tetrachloride are mixed in a three neck flask and 90 ml of thionyl chloride in 150 ml of carbon tetrachloride are added dropwise in the course of 60 minutes, under vigorous stirring while keeping the temperature at about 15° with a water bath. Stirring is maintained for a further 2 hours. The reaction medium is then washed three times with dilute hydrochloric acid, twice with a saturated solution of sodium bicarbonate and finally with a saturated solution of sodium chloride. The organic phase is separated, dried over sodium sulphate and the solvent is evaporated off under reduced pressure. The dry residue of 2-methyl-2-chlorocyclohexanone weighing about 180 g is purified by fractional distillation. The main fraction boils at 85°-90° (20 mm Hg); nD25 =1.4672.

reactant | 2-methylcyclohexanone | 112 g | CC1C(CCCC1)=O | C7H12O
reactant | thionyl chloride | 90 ml | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-methyl-2-chlorocyclohexanone | CC1(C(CCCC1)=O)Cl | C7H11ClO
